US07521457B2
d) 6-amino-3-benzyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
88 mg (0.3 mmol) 2-(2,6-diamino-benzoylamino)-3-phenyl-propionic acid are dissolved in 2 ml THF, combined with 143 mg (0.9 mmol) 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide hydrochloride and 103 μl (0.6 mmol) diisopropyl-ethylamine and stirred for 17 h at 50° C. Then the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is silica gel and the eluant used is dichloromethane, to which 5% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution have been added.

reactant | 2-(2,6-diamino-benzoylamino)-3-phenyl-propionic acid | 0.3 mmol, 88 mg | NC1=C(C(=O)NC(C(=O)O)CC2=CC=CC=C2)C(=CC=C1)N | C16H17N3O3
reactant | diisopropyl-ethylamine | 0.6 mmol, 103 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 6-amino-3-benzyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | NC1=CC=CC=2NC(C(NC(C21)=O)CC2=CC=CC=C2)=O | C16H15N3O2
